US08084644B2
Sodium hydride (60% in oil: 0.026 g) was suspended to DMF (2 ml), and 2-bromothiophenol (0.10 g) was added thereto under ice-cooling. Furthermore, phenyl N-phenyl-3-(phenylsulfonyl)acrylimidate (0.20 g) was added thereto, and stirred for one hour under ice-cooling. After the reaction, water and ethyl acetate were added to the reaction mixture, and extracted. The organic layer was washed with aqueous saturated sodium chloride solution, dried, and distilled off the solvent. The residue was subjected to silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain phenyl 3-(2-bromophenylthio)-N-phenylacrylimidate (0.19 g).

reactant | Sodium hydride | 0.026 g | [H-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2-bromothiophenol | 0.10 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | phenyl N-phenyl-3-(phenylsulfonyl)acrylimidate | 0.20 g | C1(=CC=CC=C1)N=C(C=CS(=O)(=O)C1=CC=CC=C1)OC1=CC=CC=C1 | C21H17NO3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | phenyl 3-(2-bromophenylthio)-N-phenylacrylimidate | 0.19 g | BrC1=C(C=CC=C1)SC=CC(OC1=CC=CC=C1)=NC1=CC=CC=C1 | C21H16BrNOS
